US07338958B2
Production of (RS)-S-[3-({5-bromo-4-[(R)-(2-hydroxy-1-methylethyl)amino]pyrimidin-2-yl}amino)phenyl]-S-methyl-N-nitrosulfoximide
A solution of 37 mg (0.17 mmol) of (RS)-S-(3-aminophenyl)-S-methyl-N-nitrosulfoximide in 3 ml of acetonitrile is mixed with 91 mg (0.34 mmol) of (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol and 0.06 ml of a 4 molar solution of hydrochloric acid in dioxane, and it is stirred under reflux overnight. Another 0.05 ml of the 4 molar solution of hydrochloric acid in dioxane is added, and it is refluxed for another 6 hours. After TLC monitoring, it is mixed again with 92 mg (0.34 mmol) of (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol and refluxed overnight. After cooling, the batch is made basic with saturated NaHCO3 solution and extracted from ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The residue that is obtained is purified by chromatography (DCM/EtOH 95:5). 24 mg (0.05 mmol, corresponding to 32% of theory) of the product is obtained (diastereomers A/B 1:1).

reactant | (RS)-S-(3-aminophenyl)-S-methyl-N-nitrosulfoximide | 0.17 mmol, 37 mg | NC=1C=C(C=CC1)S(=O)(=N[N+](=O)[O-])C | C7H9N3O3S
reactant | (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol | 0.34 mmol, 91 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](CO)C | C7H9BrClN3O
reactant | hydrochloric acid | Cl | ClH
reactant | (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propan-1-ol | 0.34 mmol, 92 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](CO)C | C7H9BrClN3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (RS)-S-[3-({5-bromo-4-[(R)-(2-hydroxy-1-methylethyl)amino]pyrimidin-2-yl}amino)phenyl]-S-methyl-N-nitrosulfoximide | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)S(=O)(=N[N+](=O)[O-])C)N[C@@H](CO)C | C14H17BrN6O4S
